US06911447B2
Preparation of 2-acetylamino-N-[2-[2-(3-guanidinopropyl)-4-(2-naphthalen-2-ylethyl)-5-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-3-(4-hydroxyphenyl)-propionamide (37):
A solution of 2-acetylamino-N-[2-[2-[3-(N′,N″-di-Boc-guanidino)propyl]-4-(2-naphthalen-2-ylethyl)-5-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-3-(4-hydroxyphenyl)-propionamide, 36, (35 mg, 38 mmol), trifluoroacetic acid (1 mL) and dichloromethane (2 mL) is stirred at room temperature for 5 hours. The solution is concentrated in vacuo and the crude product purified over silica gel (acetonitrile:TFA:water) to afford 24 mg (86% yield) of the final product which corresponds to analog 227, Table IV.

reactant | 2-acetylamino-N-[2-[2-[3-(N′,N″-di-Boc-guanidino)propyl]-4-(2-naphthalen-2-ylethyl)-5-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-3-(4-hydroxyphenyl)-propionamide | C(C)(=O)NC(C(=O)NC(C(=O)N1C(CN(C(C1)=O)CCC1=CC2=CC=CC=C2C=C1)CCCNC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)O | C50H62FN7O9
reactant | trifluoroacetic acid | 38 mmol, 1 mL, 35 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-acetylamino-N-[2-[2-(3-guanidinopropyl)-4-(2-naphthalen-2-ylethyl)-5-oxo-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-3-(4-hydroxyphenyl)-propionamide | 24 mg, 86% yield | C(C)(=O)NC(C(=O)NC(C(=O)N1C(CN(C(C1)=O)CCC1=CC2=CC=CC=C2C=C1)CCCNC(=N)N)CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)O | C40H46FN7O5
